US08304557B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]-3-(trifluoromethyl)benzamide
To a solution of N-[6-(3-amino-6-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (100 mg, 0.309 mmol) in 1-methylpyrrolidin-2-one (2.0 mL) was added 3-(trifluoromethyl)benzoyl chloride (78 mg, 0.371 mmol), and the mixture was stirred at room temperature for 10 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate (100 mL), washed with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=50/50→0/100), and the obtained oil was triturated with ethyl acetate and hexane to give the title compound (100 mg, 65%) as a colorless powder.

reactant | N-[6-(3-amino-6-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.309 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C(=CC1)C | C17H17N5O2
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.371 mmol, 78 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | 1-methylpyrrolidin-2-one | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]-3-(trifluoromethyl)benzamide | 100 mg, 65% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(F)(F)F)=O)=N1 | C25H20F3N5O3
